US05155249
a) 2-(4-Trimethylgermylphenyl)-2-methyl-1,3-dioxolane
To a mixture of 108 mg (4.44 mmol) of magnesium and 766 mg (5.00 mmol) of trimethylgermyl chloride was added a solution of 972 mg (4.00 mmol) of 2-(4-bromophenyl)-2-methyl-1,3-dioxolane in 12 ml of dry tetrahydrofuran (THF) at 40° C. with stirring. The mixture was refluxed for 1.5 hours and stirred at room temperature overnight. An insoluble substance was filtered off and washed with ether. The filtrate and washings were mixed and evaporated. The residue was purified by column chromatography on silica gel [eluent: petroleum ether-methylene chloride (2:1-1:2)] and recrystallized from petroleum ether to give 524 mg of white prisms, m.p. 63.5°-65° C.

reactant | magnesium | 4.44 mmol, 108 mg | [Mg] | Mg
reactant | trimethylgermyl chloride | 5.00 mmol, 766 mg | C[Ge](C)(C)Cl | C3H9ClGe
reactant | 2-(4-bromophenyl)-2-methyl-1,3-dioxolane | 4.00 mmol, 972 mg | BrC1=CC=C(C=C1)C1(OCCO1)C | C10H11BrO2
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 2-(4-Trimethylgermylphenyl)-2-methyl-1,3-dioxolane | 524 mg | C[Ge](C1=CC=C(C=C1)C1(OCCO1)C)(C)C | C13H20GeO2
